US07232833B2
5 cm3 of a 5 N aqueous sodium hydroxide solution are added at a temperature in the region of 20° C. to 614 mg (1.267 mmol) of methyl 1-[(2E)-3-(2,5-difluorophenyl)-2-propenyl]-3-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]azetidine-3-carboxylate in solution in 20 cm3 of dioxane. After stirring under reflux for 1.5 hours, 6 cm3 of a 5 N aqueous sodium hydroxide solution are again added, and the medium is kept under reflux for another 3 hours; the reaction medium is cooled and supplemented with 4.5 cm3 of hydrochloric acid at 37%, and then concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is flash-chromatographed on a 200 cm3 column of fine silica [eluent: solvent gradient (dichloromethane-methanol-aqueous ammonia at 28%) (from 100-0-0 to 72-24-4 by volume)]. The fractions containing the product are combined and evaporated to dryness (2.7 kPa). The residue (530 mg) is taken up in 10 cm3 of dichloromethane, diluted with 25 cm3 of diethyl ether to give 445 mg of 1-[(2E)-3-(2,5-difluorophenyl)-2-propenyl]-3-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-3-azetidinecarboxylic acid in the form of a slightly pink solid melting at 211° C.

reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | methyl 1-[(2E)-3-(2,5-difluorophenyl)-2-propenyl]-3-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]azetidine-3-carboxylate | 1.267 mmol | FC1=C(C=C(C=C1)F)/C=C/CN1CC(C1)(C(=O)OC)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | C27H27F3N2O3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | hydrochloric acid | 4.5 cm3 | Cl | ClH
solvent | dioxane | 20 cm3 | O1CCOCC1 | C4H8O2
product | 1-[(2E)-3-(2,5-difluorophenyl)-2-propenyl]-3-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-3-azetidinecarboxylic acid | 445 mg | FC1=C(C=C(C=C1)F)/C=C/CN1CC(C1)(C(=O)O)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | C26H25F3N2O3
